US05321135
Synthesis of methyl 3-(3,4,5-trimethoxyphenyl)-propanoate
Dissolved in 50 ml of ethyl acetate were 10.2 g of (E)-methyl 3-(3,4,5-trimethoxyphenyl)prop-2-enoate, followed by the addition of 300 mg of 10% palladium carbon. The resulting solution was stirred at room temperature for 19 hours under a hydrogen atmosphere of 1 atm. Insoluble matter was removed by filtration. The filtrate was distilled off under reduced pressure, whereby 11.03 g of the title compound were obtained as colorless oil (quantitative yield).

reactant | (E)-methyl 3-(3,4,5-trimethoxyphenyl)prop-2-enoate | 10.2 g | COC=1C=C(C=C(C1OC)OC)/C=C/C(=O)OC | C13H16O5
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium carbon | 300 mg | [C].[Pd]
product | methyl 3-(3,4,5-trimethoxyphenyl)-propanoate | 11.03 g | COC=1C=C(C=C(C1OC)OC)CCC(=O)OC | C13H18O5
